US07091220B2
1-Methyl-3-(morpholin-4-yl-phenylmethyl)-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 1-methyl-1H-indole and 4-benzylidene-morpholin-4-ium chloride.

reactant | 1-methyl-1H-indole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | 4-benzylidene-morpholin-4-ium chloride | [Cl-].C(C1=CC=CC=C1)=[N+]1CCOCC1
product | 1-Methyl-3-(morpholin-4-yl-phenylmethyl)-1H-indole | CN1C=C(C2=CC=CC=C12)C(C1=CC=CC=C1)N1CCOCC1 | C20H22N2O
